US04006145
12.5 g of 1-(2-bromo- 10,11-dihydro-dibenzo[b,f]thiepin-10-yl)-piperazine are treated, together with 13 g of powdered potassium carbonate, 0.2 g of potassium iodide and 1 litre of toluene, with 13.2 g of N-(β-chloroethyl)-oxazolidinone and the mixture is heated under reflux for 25 hours. Then the mixture is poured on to ice-water and diluted with benzene. The benzene solution is washed neutral with water and extracted with 2-N hydrochloric acid. The aqueous phase is made alkaline with sodium hydroxide and extracted with benzene. The organic phase is washed with water, dried over magnesium sulphate and concentrated under reduced pressure. There is obtained crude 3-[2-[4-(2-bromo- 10,11-dihydro-dibenzo[b,f]thiepin-10-yl)-1-piperazinyl]-ethyl]-2-oxazolidinone which is converted into the maleate of melting point 170°-172° C by treatment with maleic acid.

reactant | 1-(2-bromo- 10,11-dihydro-dibenzo[b,f]thiepin-10-yl)-piperazine | 12.5 g | BrC1=CC2=C(SC3=C(C(C2)N2CCNCC2)C=CC=C3)C=C1 | C18H19BrN2S
reactant | potassium carbonate | 13 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.2 g | [I-].[K+]
reactant | N-(β-chloroethyl)-oxazolidinone | 13.2 g | ClCCN1C(OCC1)=O | C5H8ClNO2
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | toluene | 1 litre | C1(=CC=CC=C1)C | C7H8
product | 3-[2-[4-(2-bromo- 10,11-dihydro-dibenzo[b,f]thiepin-10-yl)-1-piperazinyl]-ethyl]-2-oxazolidinone | BrC1=CC2=C(SC3=C(C(C2)N2CCN(CC2)CCN2C(OCC2)=O)C=CC=C3)C=C1 | C23H26BrN3O2S
